* 2nd-order Switched-Capacitor State Variable Filter
* IHP SG13G2 — Continuous-time equivalent for AC characterization
*
* Topology: Tow-Thomas biquad (two inverting integrators + inverter)
*   f0 = f_clk * C_sw / (2*pi*C_int)
*   Q  = C_sw / C_Q   (where C_Q = q_code * C_q_unit)
*
* Pins: vin vout sel1 sel0 vdd vss
* Parameters: r_eff_val (SC equiv resistance), r_q_val (Q damping resistance)

.param vcm_val = 0.6
.param vdd_sq_val = 1.44
.param c_int_val = 1.1e-12

.subckt svf_2nd vin vout sel1 sel0 vdd vss r_eff_val=145.1e6 r_q_val=145.1e6

.param vdd_val = 1.2

* ==== Integrator 1 (inverting): produces BP ====
Eoa1  bp_raw 0 vcm1 vg1 10000
Vcm1  vcm1 0 {vcm_val}
Rout1 bp_raw bp 100
Cint1 vg1 bp {c_int_val}

* Input resistor (Vin -> vg1)
Rin1 vin vg1 {r_eff_val}
* LP negative feedback resistor (LP -> vg1)
Rfb lp vg1 {r_eff_val}
* Damping resistor (BP -> vg1)
Rq bp vg1 {r_q_val}

* ==== Unity-gain inverter: LP_bar -> LP ====
Eoa_inv  lp_raw 0 vcm_inv vg_inv 10000
Vcm_inv  vcm_inv 0 {vcm_val}
Rout_inv lp_raw lp 100
Rinv_in  lp_bar vg_inv 100k
Rinv_fb  vg_inv lp 100k

* ==== Integrator 2 (inverting): produces LP_bar ====
Eoa2  lpbar_raw 0 vcm2 vg2 10000
Vcm2  vcm2 0 {vcm_val}
Rout2 lpbar_raw lp_bar 100
Cint2 vg2 lp_bar {c_int_val}
Rin2  bp vg2 {r_eff_val}

* ==== HP output (behavioral) ====
* Tow-Thomas: LP and BP are sign-inverted from standard biquad.
* Standard: LP_s + BP_s + HP_s = 1, so HP_s = 1 - LP_s - BP_s.
* With LP_tt = -LP_s and BP_tt = -BP_s: HP = vin + lp + bp.
Bhp hp 0 V = v(vin) + v(lp) + v(bp)

* ==== 4:1 Output Mux (behavioral) ====
Bsel_hp  sel_hp  0 V = ({vdd_val}-v(sel1))*({vdd_val}-v(sel0))/{vdd_sq_val}
Bsel_bp  sel_bp  0 V = ({vdd_val}-v(sel1))*v(sel0)/{vdd_sq_val}
Bsel_lp  sel_lp  0 V = v(sel1)*({vdd_val}-v(sel0))/{vdd_sq_val}
Bsel_byp sel_byp 0 V = v(sel1)*v(sel0)/{vdd_sq_val}

Bmux vmux 0 V = v(hp)*v(sel_hp)+v(bp)*v(sel_bp)+v(lp)*v(sel_lp)+v(vin)*v(sel_byp)
Rmux vmux vout 100

.ends svf_2nd
